US06541638B2
19176 B73: A solution of 9.68 g (16.33 mmol) (2S,4R)-2-(Benzyl-methyl-carbamoyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester in 33 ml CH2Cl2 was treated at −20° C. with 36 ml TFA, warmed up to RT during 5.5h and kept over night at 0° C.. The reaction was evaporated and treated with aqueous saturated NaHCO3 solution/EtOAc (3×), the organic phase was dried (Na2SO4) and evaporated to give 7.59 g (95%) (2S,4R)-4-Tritylsulfanyl-pyrrolidine-2-carboxylic acid benzyl-methyl-amide, MS: 493 (MH+).

reactant | (2S,4R)-2-(Benzyl-methyl-carbamoyl)-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 16.33 mmol, 9.68 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(N(C)CC1=CC=CC=C1)=O | C37H40N2O3S
reactant | TFA | 36 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 33 ml | C(Cl)Cl | CH2Cl2
product | (2S,4R)-4-Tritylsulfanyl-pyrrolidine-2-carboxylic acid benzyl-methyl-amide | 7.59 g, 95% | C(C1=CC=CC=C1)N(C(=O)[C@H]1NC[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C32H32N2OS
